US07662808B2
2-Acetylamino-N-[4-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-phenyl]-benzamide free base (Compound H1)
Acetic acid (2 ml) was added to a mixture of 2-Amino-N-[4-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-phenyl]-benzamide hydrochloric acid salt (365 mg, 1.1 mmol), sodium acetate (4.4 g, 54.2 mmol) and water (100 ml) at 0° C. The mixture was made alkaline by adding saturated sodium bicarbonate (20 ml). The mixture was extracted with ethyl acetate (3×50 ml). The product was isolated. Yield 95 mg (23%). Mp. 191° C.

reactant | Acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | 2-Amino-N-[4-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-phenyl]-benzamide hydrochloric acid salt | 1.1 mmol, 365 mg | Cl.NC1=C(C(=O)NC2=CC=C(C=C2)N2CCN3CCC2CC3)C=CC=C1
reactant | sodium acetate | 54.2 mmol, 4.4 g | C(C)(=O)[O-].[Na+]
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | water | 100 ml | O | H2O
product | 2-Acetylamino-N-[4-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-phenyl]-benzamide | C(C)(=O)NC1=C(C(=O)NC2=CC=C(C=C2)N2CCN3CCC2CC3)C=CC=C1 | C22H26N4O2
